US06849639B2
Step E: Methyl 3-(3-fluorophenyl)-3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoate
1-(3-(Dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (99.5 mg, 0.52 mmol, 1.2 equiv), 1-hydroxy-7-azabenzotriazole (12.2 mg, 0.090 mmol, 0.2 equiv), methyl 3-amino-3-(3-fluorophenyl)propanoate hydrochloride (118.8 mg, 0.51 mmol, 1.2 equiv), and N,N-diisopropylethylamine (0.18 mL, 1.03 mmol, 2.4 equiv) were added sequentially to a solution of 5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidine-3-carboxylic acid (152.2 mg, 0.43 mmol, 1 equiv) in N,N-dimethylformamide (3.0 mL). The resulting solution was stirred at 23° C. for 92 hr. The reaction was partitioned between an aqueous solution of hydrochloric acid (1.5 N, 20 mL) and ethyl acetate (3×25 mL). The combined organic layers were dried over sodium sulfate, were filtered, and were concentrated in vacuo. The residue was purified by flash column chromatography (90% ethyl acetate in hexanes) to give two diastereomers of the title compound (first diastereomer and second diastereomer) as white solids.

reactant | 1-(3-(Dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 0.52 mmol, 99.5 mg, 1.2 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.090 mmol, 12.2 mg, 0.2 equiv | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | methyl 3-amino-3-(3-fluorophenyl)propanoate hydrochloride | 0.51 mmol, 118.8 mg, 1.2 equiv | Cl.NC(CC(=O)OC)C1=CC(=CC=C1)F
reactant | N,N-diisopropylethylamine | 1.03 mmol, 0.18 mL, 2.4 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidine-3-carboxylic acid | 0.43 mmol, 152.2 mg, 1 equiv | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1)C(=O)O | C19H19N3O4
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(3-fluorophenyl)-3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoate | FC=1C=C(C=CC1)C(CC(=O)OC)NC(=O)C1CN(C(C1)=O)C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1 | C29H29FN4O5
